US04127720
6,7-Dihydro-9,10-dihydroxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid (acid hydrolysis of ester)
Ethyl 6,7-dihydro-9,10-dimethoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate was treated with 48% hydrogen bromide as described in Example 19 to give a 82% yield of the title acid, m.p. 308°-314°. Recrystallization from N,N-dimethylformamide gave the analytical sample, m.p. 321°-323°.

reactant | Ethyl 6,7-dihydro-9,10-dimethoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | COC=1C=C2CCN3C(C2=CC1OC)=NC=C(C3=O)C(=O)OCC | C17H18N2O5
reactant | hydrogen bromide | Br | BrH
product | 6,7-Dihydro-9,10-dihydroxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid | 82% yield | OC=1C=C2CCN3C(C2=CC1O)=NC=C(C3=O)C(=O)O | C13H10N2O5
